US07994185B2
Intermediate 22: 3-(5-(2-Chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline
To a solution of 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate (15 g, 34.7 mmol) in DCM (500 mL), HOAc (5 g, 83.3 mmol), Pd(PPh3)2Cl2 (0.5 g, 0.69 mmol) were added. Then tri-n-butyl tin hydride (15 g, 52 mmol) was added dropwise to the mixture at 0° C. The mixture was stirred at rt for 30 min. The reaction was quenched by adding saturated NaHCO3 (200 mL) slowly. The two layers were separated. The aqueous layer was extracted with DCM (1 L×2). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was washed with petroleum ether (200 mL) to afford the title compound. (10.5 g, 87.6% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.58 (d, J=5.2 Hz, 1H), 7.01-6.96 (m, 2H), 6.89-6.85 (m, 1H), 6.63-6.59 (m, 1H), 5.29 (br. s., 2H), 3.38-3.30 (m, 1H), 1.37 (d, J=6.8 Hz, 6H).

reactant | 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate | 34.7 mmol, 15 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C20H18ClFN4O2S
reactant | HOAc | 83.3 mmol, 5 g | CC(=O)O | C2H4O2
reactant | tri-n-butyl tin hydride | 52 mmol, 15 g | C(CCC)[SnH](CCCC)CCCC
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 0.69 mmol, 0.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(5-(2-Chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline | 87.6% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(N)C=CC1)F | C16H14ClFN4S
